US05102895
(2) Synthesis of 2,3-epoxy-4-hydroxybutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyl-tridecyl)-6-chromanyl carbonate
A mixture comprising 6.5 g (0.01 mol) of 4-benzyloxy-2,3-epoxybutyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyltridecyl)-6-chromanyl carbonate, 1 g of 5% palladium carbon, 150 ml of ethanol and 5 ml of acetic acid was catalytically reduced with hydrogen at an initial pressure of 4 kg/cm2 until no hydrogen was absorbed any more (approximately 6 hours). After filtering off the catalyst, the filtrate was concentrated to thereby reduce the amount to 1/3, poured into water and extracted with ether. Then the extract was successively washed with an aqueous solution of sodium hydrogencarbonate and water, and dried. After distilling off the solvent, the obtained oily residue was purifed by column chromatography (silica gel, hexane/ethyl acetate) to thereby give 4.5 g of the title compound as a colorless oily product.

reactant | 4-benzyloxy-2,3-epoxybutyl 2,5,7,8-tetramethyl-2-(4',8', 12'-trimethyltridecyl)-6-chromanyl carbonate | 0.01 mol, 6.5 g | C(OCC1C(COCC2=CC=CC=C2)O1)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C41H62O6
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2,3-epoxy-4-hydroxybutyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyl-tridecyl)-6-chromanyl carbonate | 4.5 g | C(OCC1C(CO)O1)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C34H56O6
